US05281614
Step D: 5-n-Butyl-2,4-dihydro-2-(4-methylbenzyl)-4-[(2'-cyanobiphenyl-4-yl)methyl]-3H-1,2,4-triazol-3-one
The alkylation of 5-n-butyl-4-[(2'-cyanobiphenyl-4-yl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one with 4-methylbenzyl bromide was carried out as described in Example 3, Step A, except that no excess sodium hydride was used. After work-up, flash chromatography of the crude product on silica gel (eluting with 0.6% methanol in CH2Cl2) provided the title compound as a clear oil, homogeneous by TLC (98:2 CH2Cl2 --MeOH), mass spectrum (FAB) m/e 437 (M+1)+.

reactant | 5-n-butyl-4-[(2'-cyanobiphenyl-4-yl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | C(CCC)C=1N(C(NN1)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C20H20N4O
reactant | 4-methylbenzyl bromide | CC1=CC=C(CBr)C=C1 | C8H9Br
reactant | sodium hydride | [H-].[Na+]
product | 5-n-Butyl-2,4-dihydro-2-(4-methylbenzyl)-4-[(2'-cyanobiphenyl-4-yl)methyl]-3H-1,2,4-triazol-3-one | C(CCC)C=1N(C(N(N1)CC1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C28H28N4O
